US04180672
2,3-Epoxy-4-tetrahydropyranyloxycyclopentan-1-one (200 mg) and 121 mg of n-heptylmercaptan were dissolved in 5 ml of methanol, and 158 mg of triethylamine was added. The mixture was stirred at room temperature for 2 hours. The reaction mixture was poured into an aqueous solution of ammonium chloride, and extracted with ethyl acetate. The extract was treated by a customary procedure to afford 280 mg of a crude product. The crude product was chromatographed on a thin layer plate with cyclohexane/ethyl acetate (=6/4) to afford 80 mg of 2-n-heptylthio-4-tetrahydropyranyloxycyclopent-2-en-1-one in a yield of 26%. The product had the following characteristics.

reactant | 2,3-Epoxy-4-tetrahydropyranyloxycyclopentan-1-one | 200 mg | O1C2C(CC(C21)OC2OCCCC2)=O | C10H14O4
reactant | n-heptylmercaptan | 121 mg | C(CCCCCC)S | C7H16S
reactant | triethylamine | 158 mg | C(C)N(CC)CC | C6H15N
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methanol | 5 ml | CO | CH4O
product | 2-n-heptylthio-4-tetrahydropyranyloxycyclopent-2-en-1-one | 80 mg, yield of 26% | C(CCCCCC)SC=1C(CC(C1)OC1OCCCC1)=O | C17H28O3S
